US07902219B2
To a solution of 0.324 g of 2-amino-5-trifluoromethylpyridine in 4 mL of DMF cooled to 4° C. is added dropwise a solution of 0.65 g of 3-bromo-1-phenylpropane-1,2-dione in 11 mL of DMF. The reaction mixture is stirred for 16 hours at 4° C. The precipitate is filtered off and washed with diethyl ether, and then dried. 0.32 g of phenyl[6-(trifluoromethyl)imidazo[1,2-a]pyridin-2-yl]methanone hydrobromide (1:1) is obtained in the form of a white solid.

reactant | 2-amino-5-trifluoromethylpyridine | 0.324 g | NC1=NC=C(C=C1)C(F)(F)F | C6H5F3N2
reactant | 3-bromo-1-phenylpropane-1,2-dione | 0.65 g | BrCC(C(=O)C1=CC=CC=C1)=O | C9H7BrO2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | DMF | 11 mL | CN(C)C=O | C3H7NO
product | phenyl[6-(trifluoromethyl)imidazo[1,2-a]pyridin-2-yl]methanone hydrobromide | 0.32 g | Br.C1(=CC=CC=C1)C(=O)C=1N=C2N(C=C(C=C2)C(F)(F)F)C1 | InChI=1S/C15H9F3N2O.BrH/c16-15(17,18)11-6-7-13-19-12(9-20(13)8-11)14(21)10-4-2-1-3-5-10;/h1-9H;1H
